US04853408
2 ml of 2-hydroxy-acetophenone were added with stirring to a mixture of 2.31 g of tetrabutylammonium acid sulfate, 20 ml of 50% sodium hydroxide solution, 40 ml of benzene and 20 ml of acetonitrile and after adding 8.26 of 3-chloro-propyl p-toluene sulfonate, the mixture was heated under an inert atmosphere at 80° C. for 17 hours. The decanted aqueous phase was extracted with benzene and the organic phase was washed with water, dried over a deshydrant, filtered and evaporated to dryness. The residue was chromatographed over silica and eluted with a 95-5 benzene-ethyl acetate mixture. Evaporation ofthe solvents yielded 3.38 g of 1-[2-{3-chloropropoxy}-phenyl]-ethanone.

reactant | 2-hydroxy-acetophenone | 2 ml | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | tetrabutylammonium | 2.31 g | C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | 3-chloro-propyl p-toluene sulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCCCl)C | C10H13ClO3S
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 1-[2-{3-chloropropoxy}-phenyl]-ethanone | 3.38 g | ClCCCOC1=C(C=CC=C1)C(C)=O | C11H13ClO2
